US08049013B2
5-[4-(1-Cyclobutyl-azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-trifluoromethyl-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-trifluoromethyl-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one (0.909 g, 1.92 mmol) in dichloroethane (25 mL) and add cyclobutanone (0.502 mL, 6.72 mmol), sodium triacetoxyborohydride (0.814 g, 3.84 mmol), and acetic acid (0.22 mL, 3.84 mmol). Stir the mixture overnight, add saturated sodium bicarbonate, and extract with dichloromethane (3×). Dry the mixture using sodium sulfate, filter, and concentrate. Purify via silica gel chromatography using a 0-4.5% gradient of 2N ammonia in methanol/dichloromethane to give 0.400 g (39%) of the desired product. MS/ES m/z 528.0 [M+1]+.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-trifluoromethyl-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 1.92 mmol, 0.909 g | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)C(F)(F)F)=O)OC | C23H18F3N3O3S
reactant | cyclobutanone | 6.72 mmol, 0.502 mL | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 3.84 mmol, 0.814 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 3.84 mmol, 0.22 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 25 mL | ClC(C)Cl | C2H4Cl2
product | 5-[4-(1-Cyclobutyl-azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-trifluoromethyl-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 0.400 g, 39% | C1(CCC1)N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)C(F)(F)F)=O)OC | C27H24F3N3O3S
